US07888513B2
Under an argon atmosphere, a mixture of dimethyl adipate (3 mmol), (L)-valinol (7.2 mmol), Zn4(OCOCF3)6O (0.3 mmol) and chlorobenzene (5 mL) was refluxed for 6 hours, then concentrated, and purified by silica gel column chromatography to give 1,4-bis((S)-4-isopropyl-1,3-oxazolin-2-yl) butane in 64.8% yield.

reactant | dimethyl adipate | 3 mmol | C(CCCCC(=O)OC)(=O)OC | C8H14O4
reactant | (L)-valinol | 7.2 mmol | N[C@@H](C(C)C)CO | C5H13NO
solvent | chlorobenzene | 5 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 1,4-bis((S)-4-isopropyl-1,3-oxazolin-2-yl) butane | 64.8% yield | C(C)(C)[C@@H]1N=C(OC1)CCCCC=1OC[C@@H](N1)C(C)C | C16H28N2O2
